* Z:\home\aalmela\scm\git\utn\eaiii\2020\11_Examenes\2_Segundo_Parcial\20201203_jueves\spice\fet_reactancia.asc
L1 VDD N002 100n
Cr1 N004 N007 1pF
Rr1 N007 0 22
Re N008 0 1k
C2 N008 0 100p
C1 N002 N008 100p
J1 N004 N007 N009 2N3819
V1 N011 0 SINE(0 {Vm} 1Khz)
V2 VDD 0 9
Rs Vm N009 100
Ca3 N009 0 10n
Lch1 N001 N004 10µ
Q1 N002 N006 N008 0 2N3904
rg N011 N010 50
Rdd VDD N001 100
Ca4 N001 0 100n
Ca2 N004 N008 1n
Rb1 VDD N006 5k
Rb2 N006 0 5k
Ca1 N006 0 10n
Ls Vm 0 100n
Lp 0 N010 100n
C3 N003 N002 100n
Q2 VDD N003 N005 0 2N3904
R1 N005 0 10k
R2 VDD N003 100k
C4 Salida N005 10n
R3 Salida 0 10k
R4 N003 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 0 12m 2m 100n uic
* Idss = 12mA
* vc = -3V
K1 Lp Ls 1
.param Vm = 1
.backanno
.end
